* Z:\mnt\design.r\spice\examples\1118-2.5.asc
V1 N001 0 5
C1 N002 0 1µ
XU1 0 MP_01 N001 MP_02 N001 N002 LT1118-2.5
.tran 3m startup
.lib LT1118.lib
.backanno
.end
